US08486977B2
N-[3,4-bis(Methyloxy)phenyl]-1-[(4-fluorophenyl)methyl]-5-methyl-1H-1,2,3-triazole-4-carboxamide
A mixture of 1-[(4-fluorophenyl)methyl]-5-methyl-1H-1,2,3-triazole-4-carboxylic acid (0.2 g, 0.85 mmol), 3,4-bis(methyloxy)aniline (0.156 g, 1.2 eq), HATU (0.485 g, 1.5 eq) and DIPEA (240 μL, 1.5 eq) in DMF was stirred at room temperature overnight. The solvent was evaporated and the residue was washed with water and extracted with DCM. The organic phase was dried over sodium sulphate, filtered and concentrated in vacuo. The residue was purified by flash column chromatography eluting with DCM to give after precipitation from ether, the title compound as a white solid (180 mg, 57%). HRMS calculated for C19H19FN4O3 (M+H)+371.1519, found: 371.1500, Rt: 2.78 min. MP: 119.7° C.

reactant | 1-[(4-fluorophenyl)methyl]-5-methyl-1H-1,2,3-triazole-4-carboxylic acid | 0.85 mmol, 0.2 g | FC1=CC=C(C=C1)CN1N=NC(=C1C)C(=O)O | C11H10FN3O2
reactant | 3,4-bis(methyloxy)aniline | 0.156 g, 1.2 eq | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | HATU | 0.485 g, 1.5 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 240 μL, 1.5 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | N-[3,4-bis(Methyloxy)phenyl]-1-[(4-fluorophenyl)methyl]-5-methyl-1H-1,2,3-triazole-4-carboxamide | COC=1C=C(C=CC1OC)NC(=O)C=1N=NN(C1C)CC1=CC=C(C=C1)F | C19H19FN4O3
